US07935722B2
N-(6-Cyano-9-thiazol-4-ylmethyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide
Partition 4-chloromethyl-thiazole hydrochloride (199 mg, 1.17 mmol) between Et2O (20 mL) and saturated aqueous NaHCO3 (20 mL). Separate the layers and dry the ether layer over MgSO4. Add DMF (3 mL) to the ether layer and concentrate in vacuo to remove the ether. Add this solution to a slurry of N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (Preparation 3) (300 mg, 1.07 mmol) and sodium hydride (60% suspension in mineral oil, 47 mg, 1.17 mmol) in DMF (3 mL) which has stirred for 30 min at room temperature. Stir the reaction at room temperature for 2 h, then add aqueous NaHCO3 (30 mL) and EtOAc (50 mL). Separate the layers and wash the organic portion with aqueous NaHCO3 (2×30 mL). Dry the organic layer (MgSO4). Filter and concentrate in vacuo to obtain 487 mg crude yellow solid. Recrystallize the material from boiling toluene (10 mL) to afford 296 mg (73%) of the title compound as a yellow solid. MS (ES): m/z 379 (M+1), 377 (M−1); 1H NMR (DMSO-d6): δ 9.01 (d, 1H, J=1.8 Hz), 7.90 (d, 1H, J=1.3 Hz), 7.84 (d, 1H, J=7.9 Hz), 7.69 (d, 1H, J=8.4 Hz), 7.56 (d, 1H, J=1.8 Hz), 7.40 (dd, 1H, J=8.6, 1.5 Hz), 5.47 (s, 2H), 3.99 (m, 1H), 3.03-2.81 (m, 3H), 2.49 (m, 1H), 2.37 (m, 1H), 1.98 (m, 1H), 1.80 (m, 1H), 0.99 (d, 6H, J=7.0 Hz); HPLC (Method A): Rt=1.93 min, (97%).

reactant | 4-chloromethyl-thiazole hydrochloride | 1.17 mmol, 199 mg | Cl.ClCC=1N=CSC1
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 1.07 mmol, 300 mg | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C17H19N3O
reactant | sodium hydride | 1.17 mmol, 47 mg | [H-].[Na+]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | N-(6-Cyano-9-thiazol-4-ylmethyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 296 mg, 73% | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC=1N=CSC1)NC(C(C)C)=O | C21H22N4OS
